US09079877B2
3-succinimidopropionaldehyde
Scheme 1 describes in general a process encompassed by the present invention. As set forth in Scheme 1, a DERA aldolase catalyzes two sequential aldol condensation reactions between 3-phthalimidopropionaldehyde and 2 mol of acetaldehyde in the presence of other suitable solvents such as methyl tert-butyl ether (MTBE) and water to yield the protected desired amino-lactol (A). Suitable DERA aldolases include, but are not limited to, DERA 04, DERA 06, DERA 101, DERA 102, DERA 104, DERA 105, DERA 106, DERA107 and DERA 108, preferably DERA 04 and DERA 102. The acetaldehyde is added to the mixture of 3-phthalimidopropionaldehyde and DERA aldolase over a time period between about 7 hours to about 12 hours, preferably about 10 hours. The mixture so formed is further stirred at a temperature between about 15° C. to about 30° C., preferably about 22° C., for a time period between about 20 hours to about 60 hours, preferably about 48 hours.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 3-phthalimidopropionaldehyde | C1(C=2C(C(N1CCC=O)=O)=CC=CC2)=O | C11H9NO3
product | 3-succinimidopropionaldehyde | C1(CCC(N1CCC=O)=O)=O | C7H9NO3
